US04581377
To 400 ml of methanol were added 5.62 grams of 4-(7-nitro-2-fluorenyl)-butan-2-one and 280 mg of platinic oxide (monohydrate) and subjected to catalytic reduction at ordinary pressure. The catalyst was removed by filtration and methanol was removed by evaporation in vacuo. To the residue was added small amount of methanol and the crystals separated out were collected by filtration to give 4-(7-amino-2-fluorenyl)-butan-2-one, m.p. 116°-117° C.

reactant | 4-(7-nitro-2-fluorenyl)-butan-2-one | 5.62 grams | [N+](=O)([O-])C1=CC=C2C=3C=CC(=CC3CC2=C1)CCC(C)=O | C17H15NO3
solvent | methanol | 400 ml | CO | CH4O
product | 4-(7-amino-2-fluorenyl)-butan-2-one | NC1=CC=C2C=3C=CC(=CC3CC2=C1)CCC(C)=O | C17H17NO
